US06331538B1
3-Benzyloxy-1-(2,4-difluorophenyl)-6-fluoro-7-pyrrolidin-1-yl-1H-quinazoline-2,4-dione
Pyrrolidine (0.04 mL, 0.52 mmol) was added to a solution of 3-benzyloxy-1-(2,4-difluorophenyl)-6,7-difluoro-1H-quinazoline-2,4-dione (Example J-4, 0.20 g, 0.45 mmol) and triethylamine (0.34 mL, 2.4 mmol) in 20 mL of acetonitrile. The solution was warmed to reflux for 6 hours, cooled, and concentrated to a solid. The solid was dissolved in chloroform, washed with 1N HCl, saturated NaHCO3, brine, and dried over magnesium sulfate. The solution was concentrated to give 0.23 g of the title compound as a solid, mp 212-214° C.

reactant | Pyrrolidine | 0.52 mmol, 0.04 mL | N1CCCC1 | C4H9N
reactant | 3-benzyloxy-1-(2,4-difluorophenyl)-6,7-difluoro-1H-quinazoline-2,4-dione | 0.45 mmol, 0.20 g | C(C1=CC=CC=C1)ON1C(N(C2=CC(=C(C=C2C1=O)F)F)C1=C(C=C(C=C1)F)F)=O | C21H12F4N2O3
reactant | triethylamine | 2.4 mmol, 0.34 mL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | 3-Benzyloxy-1-(2,4-difluorophenyl)-6-fluoro-7-pyrrolidin-1-yl-1H-quinazoline-2,4-dione | 0.23 g | C(C1=CC=CC=C1)ON1C(N(C2=CC(=C(C=C2C1=O)F)N1CCCC1)C1=C(C=C(C=C1)F)F)=O | C25H20F3N3O3
